US05025008
3-Bromo-dibenzofuran-7-carboxylic acid (8)
To a mixture of methyl 3-bromo-dibenzofuran-7-carboxylate (3.2 g, 10.5 mmol) in 2:1 THF:methanol (90 ml) was added 2.5N NaOH (60 ml). After stirring at room temperature for 1 hour, the reaction was complete. Nearly all the THF:methanol was evaporated off and then the mixture was adjusted to pH=1 with concentrated HCl and extracted with ethyl acetate. Drying (MgSO4) and evaporation yielded 3.1 g (100%) of the title compounds which was used in the next reaction without purification.

reactant | methyl 3-bromo-dibenzofuran-7-carboxylate | 10.5 mmol, 3.2 g | BrC=1C=CC2=C(OC3=C2C=CC(=C3)C(=O)OC)C1 | C14H9BrO3
reactant | THF | C1CCOC1 | C4H8O
reactant | NaOH | 2.5N, 60 ml | [OH-].[Na+]
solvent | methanol | 90 ml | CO | CH4O
product | 3-Bromo-dibenzofuran-7-carboxylic acid | 3.1 g, 100% | BrC=1C=CC2=C(OC3=C2C=CC(=C3)C(=O)O)C1 | C13H7BrO3
